US05734067
Triphenylphosphine ethylbromide (4.1 g) was added to a 2N sodium hydride/dimethyl sulfoxide solution (11 ml), prior to agitation at 50° C. for 30 minutes. To the mixture was added 4,6-dimethoxy-2-hydroxybenzaldehyde (1 g), for agitation at 50° C. overnight. After the termination of the reaction, the resulting solution was partitioned with ethyl acetate and dilute hydrochloric acid, and the resulting ethyl acetate phase was washed in water and subsequently in a saturated sodium chloride solution and dried over anhydrous magnesium sulfate, to distill off the solvents under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: hexane:ethyl acetate=3:1), followed by addition of a catalytic amount of platinum dioxide for hydrogenation, to recover 3,5-dimethoxy-2-propylphenol (0.5 g; yield of 46%). By 1H-NMR (90 MHz, CDCl3), the compound has the peaks shown below.

reactant | Triphenylphosphine ethylbromide | 4.1 g | C(C)Br.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydride dimethyl sulfoxide | 2N, 11 ml | [H-].[Na+].CS(=O)C
reactant | 4,6-dimethoxy-2-hydroxybenzaldehyde | 1 g | COC1=CC(=C(C=O)C(=C1)OC)O | C9H10O4
product | 3,5-dimethoxy-2-propylphenol | 0.5 g, yield of 46% | COC=1C(=C(C=C(C1)OC)O)CCC | C11H16O3
